US07598423B2
Synthesis of 3-[(4-hydroxymethyl-phenyl)-methoxy-methyl]-benzonitrile
A solution of 3-[methoxy-(4-triisopropylsilanyloxymethyl-phenyl)-methyl]-benzonitrile (0.4 g, 0.976 mmol), tetrahydrofuran (10 mL) and a 1M tetrahydrofuran solution of tetrabutylammonium fluoride (1.2 mL, 1.2 mmol) is stirred at room temperature 18 hr. The mixture is diluted with water (100 mL) and extracted with ethyl acetate (2×50 mL) and the combined extracts are concentrated. The residue is purified via silica chromatography eluting with hexanes to 1:1 hexanes:ethyl acetate to give the title compound (188 mg, 76%) as a colorless oil. LCMS M+1 254.

reactant | 3-[methoxy-(4-triisopropylsilanyloxymethyl-phenyl)-methyl]-benzonitrile | 0.976 mmol, 0.4 g | COC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C25H35NO2Si
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1.2 mmol, 1.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 mL | O | H2O
product | 3-[(4-hydroxymethyl-phenyl)-methoxy-methyl]-benzonitrile | 188 mg, 76% | OCC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)OC | C16H15NO2
